US04568700
Bromomethyloctylether
30 g (1 mole) of paraformaldehyde, 107 ml of 1-octanol (1 mole) are stirred in 100 ml chloroform at 0°-5° C., by passing HBr gas. After the reaction completion, indicated by the complete dissolution of the solid, the organic layer is washed with water several times, and dried over anhydrous sodium sulphate. The residue is diluted in chloroform, to give a 3M solution. The product boiled at 150°-155° C. (1 torr) and has a singlet (2 hydrogens) at 5.8 ppm from TMS. The product is kept refrigerated.

reactant | paraformaldehyde | 1 mole, 30 g | C=O | CH2O
reactant | 1-octanol | 1 mole, 107 ml | C(CCCCCCC)O | C8H18O
reactant | HBr | Br | BrH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Bromomethyloctylether | 3M | BrCOCCCCCCCC | C9H19BrO
